US08802661B2
Preparation of methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(isopentylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate. Intermediate 43
To a solution of (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid (358.0 mg, 0.625 mmol) in THF (10 mL) was added N,N-diisopropylamine (0.327 mL, 1.875 mmol), isoamylamine (0.110 mL, 0.937 mmol) and HATU (356 mg, 0.937 mmol). The reaction mixture was stirred at 25° C. After 16 h, the reaction mixture was diluted with EtOAc (50 mL), washed with 1N HCl (5 mL), 5% NaHCO3, brine, dried over MgSO4, filtered and concentrated to a foam product. The residue was absorpted on to 4 g of silica gel, loaded on to a silica gel column (40 g cartridge) and eluted with 0% B to 50% B for 240 mL then 50% B (solvent: A=hexanes, B=5:1 hex:EtOAc) to afford the title compound as a white solid (229 mg, 0.342 mmol, 54.8% yield). LCMS: m/e 642.6 (M−H)+, 3.24 min (method 5); 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.9 (2H, m, J=8.2 Hz), 7.2 (2H, m, J=8.5 Hz), 5.6 (1H, t, J=5.6 Hz), 5.3 (1H, dd, J=6.3, 2.0 Hz), 4.8 (1H, d, J=2.1 Hz), 4.6-4.6 (1H, m), 3.9 (3H, s), 3.3-3.4 (1H, m), 3.2-3.3 (2H, m), 2.5-2.6 (1H, m), 2.1 (1H, dd, J=17.1, 6.4 Hz), 2.0-2.1 (1H, m), 1.9-2.0 (1H, m), 1.8 (2H, dd, J=11.7, 7.5 Hz), 1.7 (3H, s), 1.6-1.7 (2H, m), 1.6 (1H, s), 1.6 (1H, dd, J=13.3, 2.6 Hz), 1.4-1.5 (11H, m), 1.2-1.3 (2H, m), 1.1 (1H, dd, J=12.5, 4.6 Hz), 1.0 (6H, s), 1.0 (3H, s), 1.0 (3H, s), 0.9 (3H, s), 0.9 (6H, d, J=2.4 Hz); 13C NMR(CHLOROFORM-d) δ ppm 14.4, 15.6, 16.2, 19.3, 19.5, 20.7, 21.1, 22.2, 22.3, 25.5, 25.7, 29.2, 30.6, 33.4, 33.6, 36.0, 37.2, 37.7, 38.2, 38.5, 40.3, 41.5, 42.2, 46.5, 49.3, 49.9, 51.7, 52.6, 55.4, 65.6, 109.0, 123.9, 127.6, 128.2, 129.8, 145.9, 148.5, 150.8, 167.0, 175.6.

reactant | (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid | 0.625 mmol, 358.0 mg | COC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)O)C)C)(C)C | C38H52O4
reactant | N,N-diisopropylamine | 1.875 mmol, 0.327 mL | C(C)(C)NC(C)C | C6H15N
reactant | isoamylamine | 0.937 mmol, 0.110 mL | C(CC(C)C)N | C5H13N
reactant | HATU | 0.937 mmol, 356 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(isopentylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.342 mmol, 229 mg, 54.8% yield | C(CC(C)C)NC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(=C)C | C43H63NO3
